US06797823B1
N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(2pyridylethyl)urea
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline (50 mg) was dissolved in chloroform (5 ml) and triethylamine (1 ml), and a solution of triphosgene (45 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, 2-(methylamino)pyridine (19 μl) was added to the reaction solution, and the mixture was stirred at 60° C. for additional one hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC by development with chloroform/methanol to give 26 mg (yield 37%) of the title compound.

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline | 50 mg | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | triphosgene | 45 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-(methylamino)pyridine | 19 μl | CNC1=NC=CC=C1 | C6H8N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(2pyridylethyl)urea | 26 mg, yield 37% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(=O)NCCC1=NC=CC=C1 | C24H22ClN5O4
